US04766233
A solution of 15.8 g (0.23 mole) of sodium nitrite in 100 mL of water was added to a stirred solution of 50.0 g (0.23 mole) of 2,4-dichloro-5-(1-methylethoxy)aniline in 250 mL of concentrated hydrochloric acid at 0° C. over 30 minutes. After complete addition, the mixture was stirred at 0° C. for 30 minutes. A solution of 114.0 g (0.506 mole) of tin (II) chloride dihydrate in 125 mL of concentrated hydrochloric acid was added dropwise to the reaction mixture. After complete addition, the mixture was stirred for one hour. The resultant white slurry was filtered. The filter cake was added to a 20% aqueous sodium hydroxide solution and stirred for 30 minutes. The basic mixture was filtered, and the filter cake recrystallized from methanol and water to yield 37.0 g of 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine.

reactant | sodium nitrite | 0.23 mole, 15.8 g | N(=O)[O-].[Na+]
reactant | 2,4-dichloro-5-(1-methylethoxy)aniline | 0.23 mole, 50.0 g | ClC1=C(N)C=C(C(=C1)Cl)OC(C)C | C9H11Cl2NO
reactant | tin (II) chloride dihydrate | 0.506 mole, 114.0 g | O.O.[Sn](Cl)Cl
solvent | water | 100 mL | O | H2O
solvent | hydrochloric acid | 250 mL | Cl | ClH
solvent | hydrochloric acid | 125 mL | Cl | ClH
product | 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine | 37.0 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)NN | C9H12Cl2N2O
